US04882330
4-Chloro-1-(4-methylphenoxy)-2-butanol
Utilizing the procedure of Preparation 16, 1,4-dichloro-2-butanol was reacted with 4-methylphenol to give white title compound, m.p. 62°-64° C. in 42% yield.

reactant | 1,4-dichloro-2-butanol | ClCC(CCCl)O | C4H8Cl2O
reactant | 4-methylphenol | CC1=CC=C(C=C1)O | C7H8O
product | 4-Chloro-1-(4-methylphenoxy)-2-butanol | 42% yield | ClCCC(COC1=CC=C(C=C1)C)O | C11H15ClO2
